US05162326
6-Butylthio-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A mixture of 6-chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.5 g), butylmercaptan (0.1 ml) and potassium carbonate (0.13 g) in acetonitrile (10 ml) was heated under reflux for 3 hours with stirring. The insoluble material was removed from the reaction mixture by filtration and the filtrate was concentrated to dryness. The resulting residue was dissolved in methanol (15 ml) and then 1N hydrochloric acid (1.5 ml) was added to the solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated to dryness and then the residue was extracted with methylene chloride-water. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give colorless powders (0.2 g, 55%).

reactant | 6-chloro-3-propyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.5 g | ClC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCC)=O | C40H33ClN6O2
reactant | butylmercaptan | 0.1 ml | C(CCC)S | C4H10S
reactant | potassium carbonate | 0.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 6-Butylthio-3-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.2 g, 55% | C(CCC)SC1=CC(N(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)CCC)=O | C25H28N6O2S
